### PR TITLE
feat: icombine

### LINKED ISSUE #359: Port iCombine
See Iris Rocq documentation at https://gitlab.mpi-sws.org/iris/iris/-/blob/master/docs/proof_mode.md

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

**This reopens the accidentally closed pull request #388.**

Implements the `icombine` tactic, available in three formats:
- `icombine <hypotheses> as <pattern>`
- `icombine <hypotheses> gives <pattern>`
- `icombine <hypotheses> as <pattern> gives <pattern>`

Addresses #359.

~The functions `combineAsProofModeHyp` and `combineGivesProofModeHyp` utilise the type classes `CombineSepAs` and `CombineSepGives`, respectively. Since these two functions already handle the list of hypotheses recursively, there is no need to rely on type classes for recursion.~ *In the latest version we have `iCombineCore` which takes a list of `IVarId` values as arguments and returns the final `CombineState`, as well as `CombineState.combineProofModeHyp` which handles one hypothesis at a time and updates the `CombineState` instance by one step.*

The following type classes and type class instances are all located under the `ProofMode` directory.

| Type class in Lean | Located within the Lean codebase in | Corresponding type class in Rocq | Located within the Rocq codebase in |
| ------------------ | ----------------------------------- | -------------------------------- | ----------------------------------- |
| `CombineSepAs`     | `Classes.lean`                      | `CombineSepAs`                   | `classes.v`                         |
| `CombineSepGives`  | `Classes.lean`                      | `CombineSepGives`                | `classes.v`                         |

Four instances of the type class `CombineSepAs` are named `combine_sep_as_*`  instead `combine_sep_gives_*` in Rocq. Their Lean counterparts are named `combineSepGives_*` for consistency.

| Type class instance in Lean          | Located within the Lean codebase in | Corresponding type class instance in Rocq | Located within the Rocq codebase in |
| ------------------------------------ | ----------------------------------- | ----------------------------------------- | ----------------------------------- |
| `combineSepAs_default`               | `Instances.lean`                    | `maybe_combine_sep_as_default`            | `classes.v`                         |
| `combineSepAs_affinely`              | `Instances.lean`                    | `maybe_combine_sep_as_affinely`           | `class_instances.v`                 |
| `combineSepAs_intuitionistically`    | `Instances.lean`                    | `maybe_combine_sep_as_intuitionistically` | `class_instances.v`                 |
| `combineSepAs_absorbingly`           | `Instances.lean`                    | `maybe_combine_sep_as_absorbingly`        | `class_instances.v`                 |
| `combineSepAs_persistently`          | `Instances.lean`                    | `maybe_combine_sep_as_persistently`       | `class_instances.v`                 |
| `combineSepAs_later`                 | `InstancesLater.lean`               | `maybe_combine_sep_as_later`              | `class_instances_later.v`           |
| `combineSepAs_laterN`                | `InstancesLater.lean`               | `maybe_combine_sep_as_laterN`             | `class_instances_later.v`           |
| `combineSepAs_except0`               | `InstancesLater.lean`               | `maybe_combine_sep_as_except_0`           | `class_instances_later.v`           |
| `combineSepGives_affinely`           | `Instances.lean`                    | `combine_sep_as_affinely`                 | `class_instances.v`                 |
| `combineSepGives_intuitionistically` | `Instances.lean`                    | `combine_sep_as_intuitionistically`       | `class_instances.v`                 |
| `combineSepGives_absorbingly`        | `Instances.lean`                    | `combine_sep_as_absorbingly`              | `class_instances.v`                 |
| `combineSepGives_persistently`       | `Instances.lean`                    | `combine_sep_as_persistently`             | `class_instances.v`                 |
| `combineSepGives_later`              | `InstancesLater.lean`               | `maybe_combine_sep_gives_later`           | `class_instances_later.v`           |
| `combineSepGives_laterN`             | `InstancesLater.lean`               | `maybe_combine_sep_gives_laterN`          | `class_instances_later.v`           |
| `combineSepGives_except0`            | `InstancesLater.lean`               | `maybe_combine_sep_gives_except_0`        | `class_instances_later.v`           |

The tactic should exhibit the following behaviour, consistent with that in Rocq (correct me if I am wrong):
- If all propositions being combined exist in the intuitionistic context, then the resultant combined proposition also exists in the intuitionistic context.
- Propositions in the intuitionistic context can be used as arguments of the tactic multiple times. For example, if we have `HP : P` in the intuitionistic context, then `icombine HP HP HP as HNew` results in `HNew : P ∗ P ∗ P` being introduced. 
- Propositions in the spatial context, by contrast, cannot be used multiple times, so the tactic throws an error in that case.
- If some propositions are in the intuitionistic context while others are in the spatial context, then the resultant combined proposition is in the spatial context. For example, if we have `HP : P` and `HQ : Q` in the intuitionistic context as well as `HR : R` in the spatial context, then `icombine HR HQ HP HR as HNew` produces `Hnew : R ∗ Q ∗ P ∗ R` in the spatial context.
- ~Right associativity: even though propositions are combined from left to right in the order of tactic arguments, combining `P`, `Q` and `R` should give `P ∗ Q ∗ R` instead of `(P ∗ Q) ∗ R`.~

~Regarding the last point, it appears that this is handled automatically by the type class instance for recursion in Rocq. Since the iterative process is handled by `combineGivesProofModeHyp` in Lean instead, we currently have the type class instance `combineSepAs_assoc` for this purpose.~ *The tactic should have handled the hypotheses from right to left. It's now fixed.*

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have updated `PORTING.md` as appropriate
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/Examples/IProp.lean
Comment (MackieLoeffel) [inline Iris/Iris/Examples/IProp.lean:44]: Please rebase this PR to remove the old `iframe` commits from it.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 1]
```diff
@@ -0,0 +1,232 @@
...
+  provided as an argument to `icombine` or simply the initial value of the
+  structure. This is necessary because one, for example, should be able to
+  combine `□HP : emp` with `∗HQ : Q` to get `emp ∗ Q` instead of just `Q`.
+-/
+private structure CombineAsState {u} {prop : Q(Type u)} {bi} (origE goal : Q($prop)) where
+  {newE : Q($prop)}
+  {p : Q(Bool)}
+  {out' : Q($prop)}
+  (newHyps : Hyps bi newE)
+  (init : Q(Bool) := q(false))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Can you get rid of this boolean by special casing the 0 argument case and if there is at least one hypothesis, initialize this structure with the first hypothesis?

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 2]
```diff
@@ -0,0 +1,232 @@
...
+  (pf1 : Q($origE ⊢ $newE ∗ □?$p $out'))
+  pf : Q(($newE ∗ □?$p $out' ⊢ $goal) → ($origE ⊢ $goal))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: What are `pf` and `pf1` and why are both necessary?

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 3]
```diff
@@ -0,0 +1,232 @@
...
+        -- The error should not happen as the default option is always available
+        | throwError "icombine: no type class instance to combine propositions"
+        let pf2 : Q($newE ⊣⊢ $e2 ∗ □?$p2 $out2') := pf2
+        return updateSt pf1 pf2 hyps2 goal inst
+
+private structure CombineGivesState {u} {prop : Q(Type u)} {bi} (e goal : Q($prop)) where
+  {out' : Q($prop)}
+  (hyps : Hyps bi e)
+  (pf1 : Q($e ⊢ $e ∗ □ $out'))
+  pf : Q(($e ∗ □ $out' ⊢ $goal) → ($e ⊢ $goal))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Can you combine `CombineGivesState` and `CombineAsState` into a single state and also combine the two `combine...` functions such that one needs to do a single pass instead of two like in Rocq? I thought there was a comment in the Rocq version explaining why they need to do it in a single pass.

File: Iris/Iris/ProofMode/Instances.lean [hunk 4]
```diff
@@ -854,3 +851,80 @@ instance elimModal_forall [BI PROP] φ p p' P P' (Φ Ψ : α → PROP) [h : ∀
...
+/-- If more than two propositions are combined and the resultant combined
+    proposition is connected by the same connective, then it should be
+    right associative. For example, given `P1`, `P2` and `P3` where the default
+    option is applicable, the resultant proposition should be `P1 ∗ P2 ∗ P3`
+    (i.e., `P1 ∗ (P2 ∗ P3)`) rather than `(P1 ∗ P2) ∗ P3`.
+
+    Note that `icombine` combines propositions from left to right.
+    For example, when `□ P1`, `□ P2` and `P3` are combined, it may result in
+    `□ (P1 ∗ P2) ∗ P3`. -/
+instance (priority := default - 10) combineSepAs_assoc [BI PROP] (P Q R S : PROP)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Instances.lean]: I am not sure if this instance fully solves the problem. Can you instead call instance search in a different order in the tactic to get the behavior we want? E.g. by reversing order in which the list of hypothesis is processed?

File: Iris/Iris/Examples/IProp.lean
Comment (alvinylt) [reply Iris/Iris/Examples/IProp.lean:44]: The branch is now rebased and the PR should now contain only the relevant changes.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 5]
```diff
@@ -0,0 +1,316 @@
...
+  apply sep_assoc.mp.trans
+  have pf8 : origE ∗ □ outGives' ∗ □ newOutGives ⊢ origE ∗ □ newOutGivesCombined := calc
+    _ ⊢ origE ∗ □ (outGives' ∧ newOutGives) := sep_mono_r intuitionistically_and_sep.mpr
+    _ ⊢ origE ∗ □ newOutGivesCombined       := sep_mono_r <| intuitionistically_mono pf2.make_and.mp
+  apply pf8.trans
+  apply pf6
+
+private structure CombineState {u} {prop : Q(Type u)} {bi} (origE goal : Q($prop)) where
+  -- The original set of hypotheses
+  (origHyps : Hyps bi origE)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Do you need this field?

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 6]
```diff
@@ -0,0 +1,316 @@
...
+  -- The remaining hypotheses after combining hypotheses
+  {newE : Q($prop)}
+  (newHyps : Hyps bi newE)
+  -- The combined hypothesis for the `as` syntax
+  {p : Q(Bool)}
+  {outAs' : Q($prop)}
+  -- The proof for the `as` syntax
+  (pfAs : Q(($newE ∗ □?$p $outAs' ⊢ $goal) → ($origE ⊢ $goal)))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Do you actually need the goal or can you do something simpler like `$origE |- $newE ∗ □?$p $outAs'`?

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 7]
```diff
@@ -0,0 +1,316 @@
...
+
+private structure CombineState {u} {prop : Q(Type u)} {bi} (origE goal : Q($prop)) where
+  -- The original set of hypotheses
+  (origHyps : Hyps bi origE)
+  -- The remaining hypotheses after combining hypotheses
+  {newE : Q($prop)}
+  (newHyps : Hyps bi newE)
+  -- The combined hypothesis for the `as` syntax
+  {p : Q(Bool)}
+  {outAs' : Q($prop)}
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Why does this have a ' in the name?

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 8]
```diff
@@ -0,0 +1,316 @@
...
+  -- The proof for the `as` syntax
+  (pfAs : Q(($newE ∗ □?$p $outAs' ⊢ $goal) → ($origE ⊢ $goal)))
+  -- The derived additional hypothesis for the `gives` syntax
+  (outGives' : Option Q($prop))
+  -- The proof for the `gives` syntax
+  (pfGives : match outGives' with
+    | none => PUnit
+    | some outGives' => Q(($origE ∗ □ $outGives' ⊢ $goal) → ($origE ⊢ $goal)))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Same comment as above

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 9]
```diff
@@ -0,0 +1,316 @@
...
+    -- No additional persistent information derived, `outGives'` remains unchanged
+    | none, _, _ =>
+      return {
+        origHyps, newHyps := hyps2,
+        p := pConj p p2, outAs' := newOutAs, pfAs := newPfAs,
+        -- The `gives` syntax should fail
+        outGives' := none, pfGives := ⟨⟩
+      }
+    -- Persistent information derived at this step but not in the previous step
+    | _, none, _ =>
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: I guess in this case, you can skip the type class synthesis of `CombineSepGives`.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 10]
```diff
@@ -0,0 +1,316 @@
...
+
+/--
+  The `iCombineCore` function takes the hypotheses (`hyps`) and the goal
+  (`goal`) of an Iris proof state, as well as the idents of hypotheses
+  to be combined (`hs`). It then initialises an instance of `CombineState`,
+  iteratively calls `CombineState.combineProofMode` for each hypothesis in `hs`
+  and returns the instance.
+-/
+private def iCombineCore {u} {prop : Q(Type $u)} {bi} {e : Q($prop)}
+    (hs : List (TSyntax `ident))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Instead of taking a list of `TSyntax` as an argument, this function should take a list of `IVarId`.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 11]
```diff
@@ -0,0 +1,316 @@
...
+      checkSpatialContextHyp hs hyps h
+      -- Iteratively handle the remaining hypotheses
+      st ← st.combineProofModeHyp ivar
+
+    return st
+
+/-- The tactic `icombine` combines propositions into one using the type
+    class `CombineSepAs`. By default, the separating conjunction is used
+    as the connective. -/
+elab "icombine" idents:(colGt ident)* "as" colGt patAs:icasesPat : tactic => do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Maybe all these notations should take a list of selection patterns instead of a list of `ident`? This would allow the user to do something like `icombine ∗` to combine all spatial assumptions. (I guess this would also allow the user to write something like `icombine %a`, but one can simply emit an error in this case.)

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 12]
```diff
@@ -0,0 +1,316 @@
...
+
+/--
+  A hypothesis in the spatial context should not be used as an argument of
+  the `icombine` tactic multiple times. This function ensures this is satisfied
+  and prints a pretty error otherwise.
+-/
+private def checkSpatialContextHyp {u} {prop : Q(Type $u)} {bi} {e : Q($prop)}
+    (hs : List (TSyntax `ident)) (hyps : Hyps bi e) (h : TSyntax `ident) :
+    ProofModeM Unit := do
+  if hs.count h > 1 ∧ ¬isTrue (← hyps.findP h) then
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Instead of checking this eagerly, you can lazily check this property by using `Hyps.removeG` instead of `Hyps.remove` in `combineProofModeHyp` and throw the error if the remove failed. This is more robust since it combines the check with the operation that relies on the check.

File: Iris/Iris/Tests/Tactics.lean [hunk 13]
```diff
@@ -2166,3 +2167,311 @@ example [BI PROP] [BIAffine PROP] (Q : Nat → PROP) : (Q 0 ⊢ ∃ x, False ∨
   iframe
 
 end iframe
+section icombine
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/Tactics.lean:2375]: This is a large number of tests, but a lot of them seem to test very similar things. Please condense / combine some tests (e.g. you don't need to test all modalities separately, you can also test them all at once).

File: Iris/Iris/Tests/Tactics.lean [hunk 14]
```diff
@@ -2166,3 +2167,311 @@ example [BI PROP] [BIAffine PROP] (Q : Nat → PROP) : (Q 0 ⊢ ∃ x, False ∨
...
+open ProofMode
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/Tactics.lean:2376]: There should also be tests for combining `iOwn`  and ideally also for some cmras (like fractions), testing both the `as` and the `gives` part.

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 5 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: This field is indeed unnecessary and thus removed.

Commit: [02cdaf5](https://github.com/leanprover-community/iris-lean/pull/392/commits/02cdaf51355eccac07374dc2cee2a12370ed36e7)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 6 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: Now that I have finished the proofs for the auxiliary lemmas, formulating `pfAs` as `$origE ⊢ $newE ∗ □?$p $outAs` is not only simpler but also useful for completing the proofs. So yes, I have updated `pfAs` accordingly.

The same applies for `pfGives`, which is now `Q($origE ⊢ $origE ∗ □ $outGives)` instead of `Q(($origE ∗ □ $outGives ⊢ $goal) → $origE → $goal)`.

Commit: [85cf6e0](https://github.com/leanprover-community/iris-lean/pull/392/commits/85cf6e0666d5a8607fe54698c9440ddfc22af23f)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 7 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: `Hyps.remove` returns a tuple of the form `⟨e, hyps, out1, out1', p, eq, pf⟩`, where `out` is definitionally equal to `□?$p $out'`, so I had since then denoted propositions without the `□?$p` using an apostrophe. Since in the latest version of the code the former `out` is never used, I guess it's also fine to omit the `'` without causing confusion. So I've removed them.

Commit: [3b4762e](https://github.com/leanprover-community/iris-lean/pull/392/commits/3b4762e3bd4ca506d4827da1fc01e8048f877d38)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 9 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: That's true, it's now updated.

Commit: [57c3516](https://github.com/leanprover-community/iris-lean/pull/392/commits/57c3516a9714e6bb1e7b070add5306520524d599)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 10 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: Sure, it's now updated.

Commit: [873b206](https://github.com/leanprover-community/iris-lean/pull/392/commits/873b206451858bf0945ca18b663b3fa231818d3e)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 11 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: I've now changed the elaboration's first argument from `idents:(colGt ident)*` to `patSels:(colGt selPat)*`. The existing function `SelPat.resolve` removes duplicate propositions, but it is possible to have, for example, `icombine HP HP HP` when `HP` is a hypothesis in the intuitionistic context.

For this, I have defined `SelPat.resolveWithDuplicates` which does the same thing as `SelPat.resolve` but without removing duplicates.

Commit: [3a5b58e](https://github.com/leanprover-community/iris-lean/pull/392/commits/3a5b58e125f52a03fe6378acddcfef9311d4bdaa)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 12 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: I have now defined a new function `iCombineRemoveHyp` that calls `hyps.removeG` directly. The assumption is that `hyps.removeG` throws an error if an invalid `IVarId` is given. If `hyps.removeG` returns `none` without throwing an error, `iCombineRemoveHyp` throws the error. Does this make sense?

Commit: [6eafd2f](https://github.com/leanprover-community/iris-lean/pull/392/commits/6eafd2f56baca4eb9939e5423d0fab707bad5a52)

File: Iris/Iris/Tests/Tactics.lean (hunk 13 above)
Comment (alvinylt) [reply Iris/Iris/Tests/Tactics.lean:2375]: Some tests are now condensed to check multiple features at once.

Commit: [4d22418](https://github.com/leanprover-community/iris-lean/pull/392/commits/4d224184470bb931131c7edc0bb9b3a3ad31557f)

File: Iris/Iris/Tests/Tactics.lean (hunk 14 above)
Comment (alvinylt) [reply Iris/Iris/Tests/Tactics.lean:2376]: I've checked the Rocq codebase for instances of `CombineSepAs` and `CombineSepGives`. In addition to the basic ones defined in `proofmode/class_instances`  and `proofmode/class_instances_later`, they are defined in:

- [ ] `basic_logic/lib/gen_heap.v`
- [ ] `basic_logic/lib/ghost_map.v`
- [ ] `basic_logic/lib/ghost_var.v`
- [x] `basic_logic/lib/later_credits.v`
- [x] `basic_logic/lib/own.v`
- [ ] `basic_logic/lib/saved_prop.v`
- [x] `basic_logic/lib/token.v`
- [ ] `bi/lib/fractional.v`

I've ported the instances for `later_credits`, `own` and `token`. Here are some relevant new tests:

```lean4
example {F GF} [RFunctorContractive F] [ElemG GF F] {γ}
    {a1 a2 a3 : F.ap (IProp GF)} :
    ⊢ iOwn γ a1 -∗ iOwn γ a2 -∗ iOwn γ a3 -∗
      iOwn γ (a1 • (a2 • a3)) ∧ internalCmraValid (a1 • (a2 • a3)) := ...

example {GF m n} [LcGS GF] :
    ⊢@{IProp GF} £ n -∗ £ 1 -∗ £ m -∗ £ 1 -∗ £ n + (1 + .succ m) := ...

example {GF} [TokenG GF] {γ} :
    ⊢@{IProp GF} token γ -∗ token γ -∗ False := ...
```

Have I missed any instances that are also ready to be ported to Lean?

Commit: [576f981](https://github.com/leanprover-community/iris-lean/pull/392/commits/576f9814ae3b20bac36f764e511dfc0bf361608c)

File: Iris/Iris/Instances/IProp/Instance.lean [hunk 15]
```diff
@@ -752,5 +752,15 @@ theorem iOwn_unit {γ} {ε : F.ap (IProp GF)} [Hε : IsUnit ε] : ⊢ |==> iOwn
     rintro rfl
     exact BI.and_elim_r
 
+@[rocq_alias combine_sep_as_own]
+instance combineSepAs_iOwn {γ} {a1 a2 : F.ap (IProp GF)} :
+  CombineSepAs (iOwn γ a1) (iOwn γ a2) (iOwn γ (a1 • a2)) where
```
Comment (MackieLoeffel) [inline Iris/Iris/Instances/IProp/Instance.lean:758]: In Rocq, this uses the [`IsOp` typeclass](https://gitlab.mpi-sws.org/iris/iris/-/blob/ad2f70c4dbac0d3cc710d0375546c4b9aa440aa6/iris/algebra/proofmode_classes.v) to combine `a1` and `a2`. I guess it should be ported in a separate PR, but it would be good to leave a comment about it here.

File: Iris/Iris/Tests/Tactics.lean [hunk 16]
```diff
@@ -1983,6 +1986,7 @@ example [BI PROP] [BIFUpdate PROP]
 end imod
 
 section inext
+open ProofMode
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/Tactics.lean]: This line can be removed.

File: Iris/Iris/Instances/Lib/LaterCredits.lean [hunk 17]
```diff
@@ -147,6 +143,14 @@ instance (priority := default - 10) {n m} : IntoSep (PROP := IProp GF) (£ (n +
 instance (priority := default) {n} : IntoSep (PROP := IProp GF) (£ (.succ n)) (£ 1) (£ n) where
   into_sep := lc_succ.mp
 
+@[rocq_alias combine_sep_lc_add]
+instance (priority := default - 10) {n} : CombineSepAs (PROP := IProp GF) (£ n) (£ m) (£ (n + m)) where
+  combine_sep_as := lc_split.mpr
+
+@[rocq_alias combine_sep_lc_S_l]
+instance (priority := default) {n} : CombineSepAs (PROP := IProp GF) (£ n) (£ 1) (£ (.succ n)) where
+  combine_sep_as := sep_comm.mp.trans lc_succ.mpr
```
Comment (MackieLoeffel) [inline Iris/Iris/Instances/Lib/LaterCredits.lean]: I think in Lean it is actually more common to write `+ 1` instead of `.succ`, so I would remove this instance and instead use a `rocq_ignore` with a comment.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 18]
```diff
@@ -0,0 +1,316 @@
...
+    | .inl iVarId => some iVarId
+    | .inr _      => none
+
+private def throwNoInstanceForGives : ProofModeM Unit := do
+  throwError "icombine: no type class instance to combine propositions"
+
+/-- The tactic `icombine` with the `as` syntax combines propositions into one
+    using the type class `CombineSepAs`. If no other type class instance is
+    found, the separating conjunction is used as the connective. -/
+elab "icombine" patSels:(colGt selPat)* "as" colGt patAs:icasesPat : tactic => do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean:218]: Please also update `ProofMode/Porting.lean`.

File: Iris/Iris/ProofMode/Patterns/SelPattern.lean [hunk 19]
```diff
@@ -79,6 +79,10 @@ def SelPat.resolveOne (hyps : Hyps bi e) : SelPat → ProofModeM (List SelTarget
         hyps := hyps.push (⟨.inr ldecl.fvarId, false⟩)
       return hyps.toList
 
+def SelPat.resolveWithDuplicates (hyps : Hyps bi e) (pats : List SelPat) :
+    ProofModeM (List SelTarget) := do
+  return (← pats.flatMapM (SelPat.resolveOne hyps))
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/SelPattern.lean]: Actually, I think we never want to remove an explicit hypothesis given twice for selection patterns. So, instead of adding this function, can you try to change the logic for removing duplicates in `SelPat.resolve` to `(λ snd fst => snd.kind == fst.kind && fst.explicit && !snd.explicit)`?

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 20]
```diff
@@ -0,0 +1,316 @@
...
+/--
+  Given two values `p1` and `p2`, check whether both are syntactically
+  `q(true)` and, if so, return `q(true)`. Otherwise, return `q(false)`.
+  This is useful for determining whether the combined hypothesis should
+  exist in the intuitionistic context or the spatial context.
+-/
+private def pConj (p1 p2 : Q(Bool)) : Q(Bool) :=
+  match matchBool p1, matchBool p2 with
+  | .inl _, .inl _ => q(true)
+  | _, _           => q(false)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: This function should probably be moved to the places where `matchBool` is defined.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 21]
```diff
@@ -0,0 +1,316 @@
...
+
+/--
+  While similar to `Hyps.remove`, this function uses `Hyps.removeG` directly.
+  If an invalid `IVarId` is supplied as an argument to `Hyps.removeG`,
+  the function throws the error "unknown hypothesis <argument>".
+  If a valid `IVarId` is given as an argument but the corresponding hypothesis
+  exist in the spatial context and is used multiple times, `Hyps.removeG`
+  returns `none` without throwing an error. In this case, this function
+  throw an error in a pretty format.
+-/
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: I don't think this comment is necessary. Instead, it would be better to have a doc comment on `Hyps.remove` and `Hyps.removeG` to explain their difference.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 22]
```diff
@@ -0,0 +1,316 @@
...
+private def iCombineRemoveHyp {u} {prop : Q(Type $u)} {bi : Q(BI $prop)} {e}
+    (hyps : Hyps bi e) (ivar : IVarId) : ProofModeM (RemoveHyp bi e) := do
+  match ← hyps.removeG false (fun _ ivar' _ _ => return if ivar' == ivar then some () else none) with
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: You can write this more concisely with `let some (_, r) ← hyps.removeG ... | throwError ...`
With this, I don't think this function is necessary. You can just inline it. If you want, you can extract the throwError to a separate function such that you don't need to duplicate the error message.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 23]
```diff
@@ -0,0 +1,316 @@
...
+  -/
+  | [i1] =>
+    let ⟨_, hyps1, _, out1, p1, _, pf1⟩ ← iCombineRemoveHyp hyps i1
+    return { newHyps := hyps1, p := p1, outAs := out1, pfAs := q($(pf1).mp),
+             outGives := some q(iprop(True)), pfGives := q(combine_gives_nil_singleton) }
+  /-
+    Non-trivial case when two or more hypotheses are given as arguments for
+    the tactic.
+  -/
+  | i1 :: i2 :: itail =>
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Instead of having `[i1]` and `i1 :: i2 :: itail` cases, you can just have a single `i1 :: itail` case? This would make this function quite a bit simpler.

File: Iris/Iris/ProofMode/Tactics/Combine.lean [hunk 24]
```diff
@@ -0,0 +1,316 @@
...
+/-- Parse the selection patterns and return a list of `IVarID` values. -/
+private def iCombineParseSelPats {u} {prop : Q(Type $u)} {bi} {e : Q($prop)}
+    (hyps : Hyps bi e) (patSels : TSyntaxArray `selPat) :
+    ProofModeM (List IVarId) := do
+  let selPats ← liftMacroM <| SelPat.parse patSels
+  let targets ← SelPat.resolveWithDuplicates hyps selPats
+  return targets.filterMap fun t =>
+    match t.target with
+    | .inl iVarId => some iVarId
+    | .inr _      => none
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Combine.lean]: Instead of silently ignoring pure patterns, it would be better to throw an error.

File: Iris/Iris/Tests/Tactics.lean [hunk 25]
```diff
@@ -2166,3 +2170,188 @@ example [BI PROP] [BIAffine PROP] (Q : Nat → PROP) : (Q 0 ⊢ ∃ x, False ∨
...
+  iintro HP HQ #HR
+  icombine %a as HNew1
+
+/-- Tests `icombine` for combining propositions involving `iOwn` -/
+example {F GF} [RFunctorContractive F] [ElemG GF F] {γ}
+    {a1 a2 a3 : F.ap (IProp GF)} :
+    ⊢ iOwn γ a1 -∗ iOwn γ a2 -∗ iOwn γ a3 -∗
+      iOwn γ (a1 • (a2 • a3)) ∧ internalCmraValid (a1 • (a2 • a3)) := by
+  iintro H1 H2 H3
+  icombine H1 H2 H3 as Hnew1 gives ⟨-, Hnew2⟩
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/Tactics.lean]: Instead of discarding the first part of the gives, it would be good to integrate it into the test, i.e. have `gives Hnew2` and later `iexact Hnew2`.

**Review by MackieLoeffel — COMMENTED** [review]
This is looking really good! I have a bunch of minor comments, but they should be easy to fix.

File: Iris/Iris/Tests/Tactics.lean (hunk 16 above)
Comment (alvinylt) [reply Iris/Iris/Tests/Tactics.lean]: Removed.

Commit: [e22963b](https://github.com/leanprover-community/iris-lean/pull/392/commits/e22963b41a04dfb8b3187cd6f4738d443701bc1a)

File: Iris/Iris/Instances/Lib/LaterCredits.lean (hunk 17 above)
Comment (alvinylt) [reply Iris/Iris/Instances/Lib/LaterCredits.lean]: The type class instance is removed, and `rocq_ignore` is added for `combine_sep_lc_S_l`.

Commit: [13b5803](https://github.com/leanprover-community/iris-lean/pull/392/commits/13b580332d4b95d4425cf776fececdbf54175636)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 18 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean:218]: Updated.

Commit: [c2ba445](https://github.com/leanprover-community/iris-lean/pull/392/commits/c2ba4454576de45c60968ab301dd5a7ec3a48141)

File: Iris/Iris/ProofMode/Patterns/SelPattern.lean (hunk 19 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/SelPattern.lean]: I've removed `SelPat.resolveWithDuplicates` and changed the code to use `SelPat.resolve` instead. It does work as all tests for `icombine` pass.

Commit: [8ac004a](https://github.com/leanprover-community/iris-lean/pull/392/commits/8ac004a7edbea005e56b29e6d0de4cbca6f017d6)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 20 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: Solved.

Commit: [bf75701](https://github.com/leanprover-community/iris-lean/pull/392/commits/bf75701d6baf6464b152e7a13aabce77356b7589)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 23 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: Yes, both cases can indeed be condensed into one.

Commit: [7d544dc](https://github.com/leanprover-community/iris-lean/pull/392/commits/7d544dca302cfe1af9d1da27494ea13c1c89e72b)

File: Iris/Iris/Tests/Tactics.lean (hunk 25 above)
Comment (alvinylt) [reply Iris/Iris/Tests/Tactics.lean]: The test is now updated.

Commit: [52341fb](https://github.com/leanprover-community/iris-lean/pull/392/commits/52341fbf7fc1f5d443b8db752ebf15963c078fb6)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 22 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: Solved.

Commit: [105d49d](https://github.com/leanprover-community/iris-lean/pull/392/commits/105d49d822c9d0cebf3b530947d194d7e1bf8cfe)

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 21 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: The function is removed as `removeG` is now used inline, so the comment is no longer relevant.

File: Iris/Iris/ProofMode/Tactics/Combine.lean (hunk 24 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Combine.lean]: Solved: `none` replaced by `throwError ...`.

Commits: [db56925](https://github.com/leanprover-community/iris-lean/pull/392/commits/db569254bad23f395a20e7db84833ffdbd19f137) and [e13b2ef](https://github.com/leanprover-community/iris-lean/pull/392/commits/e13b2efe597abd21b893783755956378db7a8542)

**Comment by MackieLoeffel** [comment]
Looks great, thanks for all your work on this! I made a minor cleanup pass and merged the PR.
